US07750145B2
A mixture of ethyl 4-iodobenzoate (1.38 g), 3-butenoic acid (1.08 g), palladium(II) acetate (0.11 g), tris(2-methylphenyl)phosphine (0.30 g), triethylamine (4 mL) and acetonitrile (5 mL) was stirred at 100° C. under an argon atmosphere overnight. The reaction mixture was diluted with ethylacetate. To the mixture was added 2 mol/L hydrochloric acid (20 mL), and the mixture was stirred at room temperature for 10 minutes. The insoluble material was removed by filtration, and the filtrate was extracted with ethyl acetate. The extract was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1-1/1) to give ethyl 4-((1E)-3-carboxyprop-1-enyl)benzoate (0.60 g). This material was dissolved in ethyl acetate (9 mL). To the solution was added 10% palladium-carbon powder (0.60 g), and the mixture was stirred at room temperature under a hydrogen atmosphere for 3 hours. The insoluble material was removed by filtration, and the solvent was removed under reduced pressure. The residue was dissolved in tetra hydrofuran (10 mL). To the solution was added borane tetra hydrofuran complex (1.0 mol/L tetra hydrofuran solution, 3.56 mL) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 20% aqueous potassium carbonate solution under ice-cooling, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure. The residue was dissolved in N,N-dimethylformamide (5 mL). To the solution were added imidazole (0.32 g) and tert-butyl-chlorodiphenylsilane (0.68 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water and brine successively, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=10/1) to give ethyl 4-[4-(tert-butyldiphenylsilyloxy)-butyl]benzoate (0.95 g). The title compound was prepared in a similar manner to that described in Step 2 of Reference Example 51 using this material instead of methyl 4-[3-(benzyl-oxy)phenyl]benzoate.

reactant | ethyl 4-iodobenzoate | 1.38 g | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | 3-butenoic acid | 1.08 g | C(CC=C)(=O)O | C4H6O2
reactant | tris(2-methylphenyl)phosphine | 0.30 g | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | hydrochloric acid | 2 mol/L, 20 mL | Cl | ClH
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
catalyst | palladium(II) acetate | 0.11 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | triethylamine | 4 mL | C(C)N(CC)CC | C6H15N
product | ethyl 4-((1E)-3-carboxyprop-1-enyl)benzoate | 0.60 g | C(=O)(O)C/C=C/C1=CC=C(C(=O)OCC)C=C1 | C13H14O4
